US06455528B1
(2) 4-Acetyl-1-(5-bromothiazol-2-yl)piperazine
A solution of 4-acetyl-1-(thiazol-2-yl)piperazine (3.1 g) and N-bromosuccinimide (2.9 g) in acetic acid (14 ml) was stirred at room temperature for 1 hr. The reaction mixture was neutralized with 1N aqueous sodium hydroxide solution and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a pale-brown solid (2.9 g). The obtained pale-brown solid was purified by silica gel column chromatography (developing solvent; chloroform:methanol=20:1) to give the title compound (2.1 g) as a pale-brown solid.

reactant | 4-acetyl-1-(thiazol-2-yl)piperazine | 3.1 g | C(C)(=O)N1CCN(CC1)C=1SC=CN1 | C9H13N3OS
reactant | N-bromosuccinimide | 2.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
product | 4-Acetyl-1-(5-bromothiazol-2-yl)piperazine | 2.9 g | C(C)(=O)N1CCN(CC1)C=1SC(=CN1)Br | C9H12BrN3OS
